US08231858B2
8(a) 2-(4-methoxy-benzenesulfonylamino)-3-methyl-butyric acid tert-butyl ester
To a stirred suspension of 2-Amino-3-methyl-butyric acid tert-butyl ester (H-D-Val-OtBu.HCl) (500 mg, 2.38 mmol) in acetonitrile (20 ml) was added pyridine (767 μl, 9.52 mmol) at ambient temperature. A clear and colourless solution was quickly obtained. Then a solution of 4-methoxyl-benzenesulfonyl chloride (541 mg, 2.62 mmol) in acetonitrile (10 ml) was added dropwise and the mixture became slightly yellow coloured and was stirred at ambient temperature. TLC (EtOAc/Hexane, 1:1) monitoring showed the reaction was completed after 3 hours. After evaporation of acetonitrile, the residue was taken up in dichloromethane (30 ml) and extracted once each with 10% sodium bicarbonate solution (30 ml) and water (30 ml). Then the phases were separated and the dichloromethane phase was dried (Na2SO4), filtered and evaporated to afford the crude product. Flash chromatography using (Ethyl acetate/Hexane, 1:1) gave the pure product as a white solid. Yield 801 mg (93.90%).

reactant | 2-Amino-3-methyl-butyric acid tert-butyl ester | 2.38 mmol, 500 mg | C(C)(C)(C)OC(C(C(C)C)N)=O | C9H19NO2
reactant | pyridine | 9.52 mmol, 767 μl | N1=CC=CC=C1 | C5H5N
reactant | 4-methoxyl-benzenesulfonyl chloride | 2.62 mmol, 541 mg | O(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
reactant | Ethyl acetate Hexane | C(C)(=O)OCC.CCCCCC
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-(4-methoxy-benzenesulfonylamino)-3-methyl-butyric acid tert-butyl ester | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C16H25NO5S
